Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2][C:4]([O+:5]=[C:6]([N:7]([O-:3])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],108.213602245481
[C:1]([n:2]1[n:3][c:4]([H:10])[n:5][n:6]1)([H:7])([H:8])[H:9]>>[C:1]([N-:2][N+:3]#[C:4][H:10])([H:7])([H:8])[H:9].[N:5]#[N:6],32.2830558616926
[C:1]1([H:8])=[C:2]([H:9])[C:6]2=[C:3]([H:10])[O:4][C@@:5]12[H:11].[H:7][H:12]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C@@:3]3([H:10])[O:4][C@:5]1([H:11])[C@@:6]23[H:12],50.9669539724024
[N:1]1=[C:2]([H:9])[C:3]([H:8])=[O+:4][C:5]([H:10])([H:11])[C:6]1=[N-:7]>>[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9],23.7370144639683
[N:1]([C:2](=[O:3])[C:4](=[C:5])[H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][H:8])([H:6])[H:7],0.7294840693040996
[C:4](=[C:5]([H:12])[H:13])([H:10])[H:11].[O:1](/[C:2](=[N:3]/[H:9])[H:8])[C:6]#[C:7][H:14]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],36.061589087853115
[N:1]([c:2]1[n:3][n:4]([H:9])[c:5]([H:10])[n:6]1)([H:7])[H:8]>>[N:1](=[C:2]1[N:3][N:4]([H:9])[C:5]([H:8])([H:10])[N:6]1)[H:7],116.147410363218
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])([H:13])[C@@:6]12[H:14]>>[C:1](\[C:2](=[C:3]([H:10])[H:11])[H:9])(=[C:6](\[C:5]([O:4][H:7])([H:12])[H:13])[H:14])[H:8],83.1276539181649
[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C@:6]12[H:16]>>[C:1]1([H:7])=[C:6]([H:16])[C:2]1([C:3]([C:4]([C:5]([H:8])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9],92.44276559642107
[C:1]([C:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([O:5][H:15])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C-:1]([C:2]([C+:3]([O:5][H:15])[H:11])([H:9])[H:10])([H:7])[H:8].[C:4]([H:6])([H:12])([H:13])[H:14],92.2721077012302
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([O:5][H:12])[O:3][O:7][C:6]([H:13])=[C:4]1[H:11])([H:8])([H:9])[H:10],73.88184097446499
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7]>>[H:10][H:11].[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:8])[H:9])[H:7],88.3865476767158
[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C@:2]([O:3][H:11])(/[C:4](=[N:5]/[H:14])[H:13])[H:12])([H:8])([H:9])[H:10].[C:6](#[N:7])[H:15],62.925750307955596
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C+:4]=[C:6]=[N-:7])[H:11])([H:8])([H:9])[H:10].[C:5]([H:13])([H:14])([H:15])[H:16],78.15360614494791
[N:1](=[C:2](\[C-:7]([N+:4]#[N:3])[H:10])[H:9])\[H:8].[O+:5]#[C-:6]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],60.2603405839431
[N:1]1([H:8])[C@@:2]2([C:6]#[N:7])[O:3][C@@:4]2([H:9])[O:5]1>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],21.918519973118705
[O:1](/[C:2](=[N:3]/[H:8])[H:7])[C:6](=[C:5]=[C:4]([H:9])[H:10])[H:11]>>[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7],25.8237851711538
[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([H:8])([H:9])([H:10])[H:15].[C:2]1(=[O:5])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14],80.5999242494765
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@:4]1([O:5][H:13])[C:6]([H:14])([H:15])[O:7]2)([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([O:5][H:13])[C:4](=[C:3]([H:11])[H:12])[C:6]([H:14])([H:15])[O:7]1)([H:8])([H:9])[H:10],41.037941178713204
[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C@@:2]1([H:12])[O:3][C:6](=[O:7])[O:5][C:4]1([H:10])[H:11])([H:8])[H:9],70.8849703256665
[N:1]([N:6]=[C:5]=[C:2]1[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8]>>[N:1]([C:2]1([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8],54.06360395798288
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([O:3][H:12])[C:4](=[O:5])[C:6](=[C:7]([H:11])[H:13])[H:9])([H:8])[H:10],71.87543188674191
[C:3](=[O:4])([C:5]#[N:6])[H:11].[N:1]([C:2]([H:8])([H:9])[H:10])([H:7])[H:12]>>[N:1]([C:2]([C@@:3]([O:4][H:12])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8],66.60330875950643
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C@@:2]1([O:3][H:12])[C:4]([H:10])([H:11])[O+:5]=[C-:6][N:7]1[H:13])([H:8])[H:9],78.4251203421935
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:10])[C:2]([H:11])([H:12])[O:3][C@:4]1([O:5][H:9])[C:6]([O:7][H:15])([H:13])[H:14],91.21715761701272
[C:1]([C:2]([O:3][C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[C:2]([H:10])([H:11])[O:3][C:4]([H:12])([H:13])[C:5][C:6]1([H:8])[H:14],66.2026183565838
